Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cardiac arrest
 
Major Surgical or Invasive Procedure:
s/p ICD generator change ___

 
History of Present Illness:
Mr. ___ is a ___ yoM with hx of DM2, COPD, non-ischemic 
cardiomyopathy with EF ___ s/p dual chamber ICD, CAD s/p MI 
___ ___ and 3V CABG (LIMA-LAD and separate SVGs to fist diag and 
right PLVB), and hx of cocaine use who presented to ___ 
___ ___ the setting of multiple ICD shocks.  

___ the ___, he was noted to be ___ a wide complex 
tachycardia but was initially awake and was receiving shocks 
from his device. It is unclear when he became pulseless but he 
received CPR intermittently (reportedly 8 minutes) during which 
time he was receiving internal shocks from his device ___ per 
report) as well as multiple external shocks ___ per report) 
and he was intubated. He was also reportedly treated for "PEA 
arrest" during this time as well as lidocaine (~300 mg) and was 
then started on amiodarone gtt at 1 mg/min and lidocaine gtt at 
2 mg/min.  He also received epi x 5. He was given rectal aspirin 
and received a bolus of heparin, and 5L IVF. Labs at ___ 
___ notable for CK 124, Cr 1.5, Hct 49, pts 158, WBC 11.1.  


He was medflighted to ___ during which time he had additional 
wide complex tachycardia during transport and became pulseless 
requiring CPR. Since arrival to ___ he has had no further wide 
complex tachycardia. He has remained hemodynamically stable with 
sBP 100-110s since transport but has been persistently hypoxic 
despite high PEEP (up to 20) and 100% FiO2. Bedside TTE upon 
arrival to ___ demonstrated an EF of ___. Pacemaker 
interrogated and showed clsoe to 60 shocks beginning 3 days ago 
(2 shocks 3 days ago, an episode of VT that he was ATP'd out of, 
followed by multiple shocks over the last day). His CXR showed 
patchy infiltrates bilaterally and cardiomegaly.  CT head was 
negative for acute process. Urine tox screen was positive for 
cocaine. Labs notable for WBC of 14.2, pts 118, Cr 1.8, Ca 7.3, 
TnT 0.47, Lactate 6.2, BNP ___.  

REVIEW OF SYSTEMS:
Unable to obtain
 
Past Medical History:
- Non-ischemic cardiomyopathy with EF ___ s/p dual chamber 
ICD
- CAD s/p MI ___ ___ and 3V CABG (LIMA-LAD and separate SVGs to 
fist diag and right PLVB)
- IDDM
- COPD
- Chronic Back Pain
- CKD ___ Bright's disease
- Anxiety
- HLD
 
Social History:
___
Family History:
Early CAD ___ brother, father
 
Physical ___:
Admission exam:
===============
General: Intubated, sedated
HEENT: Pupils 1-2mm minimally reactive
Neck: ET tube ___ place, no masses
CV: RRR, difficult to appreciate
Lungs: Rhonchorous
Abdomen: Soft
GU: Foley ___ place
Ext: Cool to touch, dopplerable DP 2+ (only appreciate L radial 
pulse), no edema
Neuro: Moving L extremity purposelessly, withdrew to pain for 
A-line placement

Discharge exam:
===============
VS: 97.6, 115-125/71, 52-70, 20, 100% RA
I/O's: 24hr: not recorded, 8hr: 180-975
Wt: 81.1 (80.5 ___

Neuro: Oriented to location but not to year (___), poor short 
term memory.  Follows commands. MAE against gravity  (L > R) . 
___ strength LUE, LLE, RLE. 4+ strength RUE.
General: Awake, alert, interactive. 
HEENT: PERRL 
Neck: supple, no JVD
CV: RRR S1S2, no murmurs
Lungs: CTAB
Abdomen: Soft, nontender, nondistended. Bowel sounds present
Ext: Warm, no edema. DP 2+, black eschars on great toes 
bilaterally
Skin: Blanching erythematous patch with mild scale over right 
scapula.  Erythematous, lichenified patch on left elbow and 
bilateral calfs.
 
Pertinent Results:
Admission:
===============
___ 03:51AM BLOOD WBC-14.7* RBC-5.12 Hgb-15.4 Hct-49.0 
MCV-96 MCH-30.0 MCHC-31.4 RDW-13.0 Plt ___
___ 08:55AM BLOOD Neuts-86.2* Lymphs-6.4* Monos-6.7 Eos-0.2 
Baso-0.6
___ 03:51AM BLOOD ___ PTT-105.6* ___
___ 08:55AM BLOOD Glucose-388* UreaN-24* Creat-2.0* Na-136 
K-5.3* Cl-106 HCO3-20* AnGap-15
___ 08:55AM BLOOD ALT-127* AST-231* CK(CPK)-633* AlkPhos-66 
TotBili-0.7
___ 03:51AM BLOOD proBNP-___*
___ 03:51AM BLOOD cTropnT-0.47*
___ 03:51AM BLOOD Calcium-7.3* Phos-4.8* Mg-2.1
___ 03:51AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:28AM BLOOD Type-ART Temp-36.3 Rates-/14 PEEP-12 
FiO2-100 pO2-112* pCO2-69* pH-7.11* calTCO2-23 Base XS--9 
AADO2-543 REQ O2-89 Intubat-INTUBATED Vent-CONTROLLED

Pertinent labs:
===============
___ 03:51AM BLOOD proBNP-___*
___ 03:51AM BLOOD cTropnT-0.47*
___ 08:55AM BLOOD CK-MB-58* MB Indx-9.2* cTropnT-0.91*
___ 08:58PM BLOOD CK-MB-72* MB Indx-7.1* cTropnT-1.27*
___ 04:09AM BLOOD CK-MB-13* MB Indx-1.1 cTropnT-1.81*

MICROBIOLOGY:
Blood cultures ___ and ___ negative
Urine culture ___ negative
Sputum culture ___
GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENT WITH     
                                    OROPHARYNGEAL FLORA. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora. 
      STREPTOCOCCUS PNEUMONIAE.    MODERATE GROWTH. 
         Note: For treatment of meningitis, penicillin G MIC 
breakpoints
         are <=0.06 ug/ml (S) and >=0.12 ug/ml (R) Note: For 
treatment of
         meningitis, ceftriaxone MIC breakpoints are <=0.5 ug/ml 
(S), 1.0
         ug/ml (I), and >=2.0 ug/ml (R) For treatment with oral 
penicillin,
         the MIC break points are <=0.06 ug/ml (S), 0.12-1.0 (I) 
and >=2
         ug/ml (R).  CEFTRIAXONE (0.25 MCG/ML). 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         Rifampin should not be used alone for therapy. 
      HAEMOPHILUS INFLUENZAE, BETA-LACTAMASE NEGATIVE.    
MODERATE GROWTH. 
         Beta-lactamse negative: presumptively sensitive to 
ampicillin. 
         Confirmation should be requested ___ cases of treatment 
failure ___
         life-threatening infections.. 
      MORAXELLA CATARRHALIS.    MODERATE GROWTH. 

Sputum culture ___
   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   PLEOMORPHIC GRAM NEGATIVE 
ROD(S). 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND ___ SHORT 
CHAINS. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      STREPTOCOCCUS PNEUMONIAE.    MODERATE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # 38___ ON 
___. 
      HAEMOPHILUS INFLUENZAE, BETA-LACTAMASE NEGATIVE.    
MODERATE GROWTH. 
         Beta-lactamse negative: presumptively sensitive to 
ampicillin. 
         Confirmation should be requested ___ cases of treatment 
failure ___
         life-threatening infections.. 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ON 
___. 
      MORAXELLA CATARRHALIS.    MODERATE GROWTH. 

Discharge:
===============
___ 06:46AM BLOOD WBC-6.8 RBC-4.90 Hgb-14.2 Hct-44.4 MCV-91 
MCH-29.0 MCHC-31.9 RDW-13.3 Plt ___
___ 06:46AM BLOOD Plt ___
___ 06:46AM BLOOD ___
___ 06:46AM BLOOD Glucose-146* UreaN-24* Creat-1.4* Na-134 
K-5.2* Cl-97 HCO3-28 AnGap-14
___ 06:46AM BLOOD Calcium-9.5 Phos-3.5 Mg-1.9

Imaging:
===============
___ Echo
Conclusions   
 The left atrial volume is severely increased. There is mild 
symmetric left ventricular hypertrophy. The left ventricular 
cavity is moderately dilated. There is severe regional left 
ventricular systolic dysfunction with akinesis of the inferior 
wall and distal ___ of the septum and inferolateral walls, 
and distal anterior and lateral walls. The apex is aneurysmal 
and dyskinetic. The remaining segments are hypokinetic (LVEF 
20%). Left ventricular cardiac index is depressed 
(<2.0L/min/m2). No masses or thrombi are seen ___ the left 
ventricle. Doppler parameters are most consistent with Grade 
III/IV (severe) left ventricular diastolic dysfunction. Right 
ventricular chamber size is normal. with mild global free wall 
hypokinesis. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve leaflets are mildly 
thickened. Mild to moderate (___) mitral regurgitation is seen. 
There is borderline pulmonary artery systolic hypertension. 
There is no pericardial effusion. 

 IMPRESSION: Symmetric left ventricular hypertrophy with marked 
cavity dilation and extensive regional systolic dysfunction c/w 
multivessel CAD or other diffuse process. Moderate to severe 
mitral regurgitation. 

 CLINICAL IMPLICATIONS: 
 The left ventricular ejection fraction is <40%, a threshold for 
which the patient may benefit from a beta blocker and an ACE 
inhibitor or ___.  

___ CXR
IMPRESSION:  Moderate to severe cardiomegaly. 

___ CT head
IMPRESSION:  No acute intracranial process.

___ EEG:
IMPRESSION: This is an abnormal 24 hour video EEG recording due 
to the very low voltage theta frequency background slowing seen 
___ the initial portion of the recording which improves as the 
study progresses and becomes more continuous by the evening, 
reaching up to ___ Hz with bursts of generalized ___ Hz delta 
frequency slowing. These findings are consistent with a severe 
encephalopathy which is etiologically non-specific. No 
epileptiform discharges or electrographic seizures are seen. 

___ CT head
IMPRESSION: 
1.  Interval development of hypodensities ___ the left occipital 
and parietal lobes ___ a watershed distribution, concerning for 
infarction. 
2.  Hypodensities ___ the left medial temporal lobe may represent 
partial 
volume averaging with the choroidal fissure, or areas of 
infarction.  If they are areas of infarction, they would be 
usual for a watershed distribution. 
3.  No hemorrhage is identified. 

___ CXR 
Moderate-to-severe cardiomegaly is stable.  Pacer leads are ___ a 
standard 
position.  Right IJ catheter tip is ___ the upper right atrium.  
There is no pneumothorax.  There is mild vascular congestion.  
There are no large pleural effusions.  Sternal wires are 
aligned. 

___ Echo
The left atrium is moderately dilated. No atrial septal defect 
is seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity is 
moderately dilated. There is moderate to severe regional left 
ventricular systolic dysfunction with akinesis of the 
inferior/infero-lateral, distal/apical segments. No masses or 
thrombi are seen ___ the left ventricle. There is no ventricular 
septal defect. with depressed free wall contractility. The 
ascending aorta is mildly dilated. The aortic valve is not well 
seen. There is no aortic valve stenosis. No aortic regurgitation 
is seen. The mitral valve leaflets are mildly thickened. An 
eccentric, posteriorly directed jet of moderate (2+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is mild pulmonary artery systolic hypertension. 
There is no pericardial effusion. 

Compared with the prior study (images reviewed) of ___, 
the LVEF has improved (___)

___  CTA Head and neck
IMPRESSION: 
Sequela from old left parietal occipital infarcts and 
age-related involutional with chronic microangiopathic changes 
without acute hemorrhage or mass effect. 
  
Moderate narrowing of the proximal left cavernous ICA just 
beyond it's exit of the petrous segment. Otherwise unremarkable 
CTA of the head and neck without evidence of significant 
stenosis, aneurysm, pseudoaneurysm, or dissection.   
  
Enlarged main pulmonary artery which may reflect pulmonary 
hypertension.   
  
Asymmetric soft tissue fullness about the right piriform sinus 
to above the true vocal cords; further evaluation as clinically 
warranted. 

 
Brief Hospital Course:
___ with DM2, COPD, non-ischemic cardiomyopathy with EF ___ 
s/p dual chamber ICD, CAD s/p MI ___ ___ and 3V CABG (LIMA-LAD 
and separate SVGs to fist diag and right PLVB), and hx of 
cocaine use who presents s/p cardiac arrest ___ the setting of VT 
storm, now found to have L occipital/parietal watershed infarct. 


# Cardiac arrest: Patient presented to OSH with VT storm s/p 
close to 60 total ICD shocks, multiple rounds of CPR with 
unclear down/pulseless time. Differential for VT could be 
cocaine abuse, hypokalemia, new or worsened heart failure, and 
acute myocardial ischemia. Initial antiarrythmics included IV 
Amiodarone and IV Lidocaine. Per EP recommendations, lidocaine 
was weaned off and amiodarone was continued. Patient treated 
with cooling protocol given comatose state after ROSC. He was 
successfully extubated on ___ and was switched to PO Amiodarone, 
now on maintenance dose. Metoprolol and Lisinopril were titrated 
during admission. He had a few episodes of NSVT but no further 
significant arrhythmias with optimization of fluid and 
electrolyte status. He underwent an ICD generator change on 
___. He was started on Vancomycin IV s/p generator change for a 
10d course and transitioned to PO Clindamycin given concern for 
possible rash/itchiness - pt w/ hx of MRSA. Will need follow up 
with EP for consideration of VT ablation. 

# Heart failure: Patient has severe biventricular heart failure 
(EF ___ with BiV/ICD. He is on medical management with 
lisinopril and metoprolol. Following aggressive diuresis of 
pulmonary edema, he is being continued on PO lasix 20mg daily. 
Continued on aspirin and statin for history of CAD s/p MI and 
now stroke. Repeat TTE ___ 3 months to eval ventricular function.

# Hypoxemic respiratory failure: ABG 7.___/112/23 on 
admission. Patient with bilateral infiltrates on CXR with P:F 
92. Likely due to pulmonary edema and significantly improved 
with aggressive diuresis. There was an interval concern for 
pneumonia and he was treated on a 7d course of Vancomycin and 
Cefepime. Sputum cultures grew only commensal flora. He was 
successfully extubated on ___ and had no further respiratory 
issues. 

#Stroke/AMS: With weaning of sedation, patient was found to have 
preferential movement of left side without significant right 
side movement. Found to have interval development of L 
occipital/parietal watershed infarction on CT (___). Deficits 
predominantly of right side neglect and NOT right hemiparesis as 
originally thought (exam confounded by right side neglect). CTA 
of head/neck showed moderate narrowing of proximal L cavernous 
ICA. EEG was abnormal with non-specific encephalopathy and focal 
dysfunction ___ L temporal region, but no epileptiform 
discharges. He showed interval improvement ___ neurological 
status and was able to sit unassisted, feed himself with his 
left hand and stand/walk with minimal assistance. He will need 
ongoing ___ rehabilitation. He was medically managed 
with aspirin, statin and permissive hypertension. He was 
maintained on quetiapine BID and lorazepam PRN for agitation. He 
should have follow up with Neurology for ongoing management. 

# Acute kidney injury: Cr 1.8 on admission (unknown baseline) ___ 
a patient with assumed baseline renal insufficiency likely due 
to DM. Initial acute increase ___ creatinine (peak Cr 3.9) likely 
due to poor forward flow ___ setting of EF of 20% and hypotension 
related to cooling process with contribution from distributive 
shock/sepsis. Resolved with improvement ___ clinical status and 
now below admission value at 0.9-1.1.

# DM: Glucose 400s on admission, patient managed with ISS and 
normoglycemic throughout stay. 

# Aneurysmal LV: Was initially on heparin gtt, switched to 
Lovenox and bridged to warfarin. Will need Warfarin x 3months.

TRANSITIONAL ISSUES:
# The patient was deemed to not currently have capacity for 
medical decision making, as he is not consistently oriented to 
place or situation, cannot articulate his condition or decisions 
that are being asked of him.  His brother ___ (___) 
has been appointed his Health Care Proxy. 
# Full Code per discussion with HCP and pt, as patient recovers 
cognitive function.
# Clindamycin 300mg TID for total of 1 week of antibiotics at 
time of DC, first day ___. 
# Continue titration of warfarin for INR goal 2.0-3.0 x3 months.
# Repeat LFTs ___ 1 month s/p initiation of statin given slight 
LFT elevations during admission (ALT 50, AST 44).
# Amiodarone: Will need PFTs as outpt, TSH during admission wnl.
# TTE should be ordered ___ 3 month to eval ventricular function.
# Follow up with EP Dr ___ ___ ___ for device management 
and consideration for VT ablation
# Follow up with Neurology for post-stroke management. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol-Ipratropium ___ PUFF IH Q6H:PRN dyspnea 
2. Lorazepam 0.5 mg PO HS:PRN sleep 
3. Aspirin 325 mg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Lisinopril 10 mg PO DAILY 
6. Metoprolol Tartrate 100 mg PO TID 
7. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
8. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN pain 
9. Ezetimibe 10 mg PO BID 
10. Simvastatin 80 mg PO DAILY 
11. Glargine 90 Units Bedtime
Humalog 6 Units Breakfast
Humalog 6 Units Lunch
Humalog 6 Units DinnerMax Dose Override Reason: home dose

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. Lisinopril 5 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Atorvastatin 40 mg PO DAILY 
6. Spironolactone 25 mg PO DAILY 
7. Sarna Lotion 1 Appl TP TID 
8. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin
9. Amiodarone 200 mg PO DAILY 
10. DiphenhydrAMINE 25 mg PO Q6H:PRN itching 
11. Thiamine 100 mg PO DAILY 
12. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID 
13. Warfarin 5 mg PO DAILY 
dose for INR goal 2.0-3.0 
14. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
15. Albuterol-Ipratropium ___ PUFF IH Q6H:PRN dyspnea 
16. Clindamycin 300 mg PO Q8H 
Stop after 3rd dose on ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Non-ischemic cardiomyopathy EF ___ s/p ___ generator 
change ___
s/p VT cardiac arrest from cocaine use
s/p Stroke, left occipital/parietal watershead infarct on 
___
Aneurysmal LV 

Secondary:
Coronary artery disease s/p CABG ___
Diabetes type II
COPD
Pneumonia
s/p MI ___ ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent, 1 assist out of bed

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you at ___. You were admitted 
for treatment of your arrhythmia (an irregular heart beat). ___ 
this setting you suffered a cardiac arrest and required CPR and 
medications to restore your heart beat and blood pressure. You 
remained ___ a medical coma and and required a breathing tube 
until your respiratory status improved. We treated your 
arrhythmia with medications. We also performed a battery change 
for your internal defibrillator. 

It is also very important that you avoid illegal drugs at they 
can cause changes ___ your heart rhythm which can lead to another 
episode of your heart stopping.  Please take all your 
medications as prescribed.

You were also treated for heart failure with medications. Heart 
failure is the inability for the heart to meet the needs of the 
body. We have changed your medicaitons and your heart failure 
symtpoms have continued to improve along with careful monitoring 
of your diet and fluid intake. 

You were also diagnosed and treated for pneumonia with a course 
of antibiotics which has resolved. 

You also suffered from a stroke. Your funcitoning has continued 
to improve and you will be followed by a nueurologist as an 
outpatient.

You were found to have an anurysm ___ the left ventricle of your 
heart which puts you at increased risk for another stroke so you 
have been placed on Coumadin. It is very important that you take 
your Coumadin exactly as directed (every evening, dose will be 
adjusted by Dr. ___ and take blood tests to ensure 
that it is working appropriately.  The rehab facility will 
manage your Coumadin levels.

For your diagnosis of heart failure it is important that you 
weigh yourself every morning, call Dr. ___ your weight 
goes up more than 3 lbs ___ 2 days.

Please continue to take your medications as prescribed on 
discharge. You will have close follow up with Dr. ___ Dr. 
___ ensure that you keep these appointments. It is 
very important that you follow up with cardiology at regular 
intervals so that your defibrillator can be tuned up.

 
Followup Instructions:
___